*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.002/0.002
*-- die chiplet6:  metal layers: 2


.subckt chiplet6
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
*-- p/g port #: 4/5

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 4.112e-02ns 0.0  9.112e-02ns 1.2e-01  1.928e-01ns 1.2e-01  2.428e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 5.0626
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 3.90442e-11
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 8.930e-01ns 0.0  9.430e-01ns 4.2e-01  9.930e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 4.28536
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 3.3728e-11
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 7.870e-01ns 0.0  8.370e-01ns 4.1e-01  8.467e-01ns 4.1e-01  8.967e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 3.70053
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 5.23251e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 3.469e-01ns 0.0  3.969e-01ns 2.0e-02  9.308e-01ns 2.0e-02  9.808e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 7.84465
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 1.5644e-11
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 3.666e-01ns 0.0  4.166e-01ns 4.8e-02  6.732e-01ns 4.8e-02  7.232e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 6.06008
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 4.32975e-12
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 5.982e-02ns 0.0  1.098e-01ns 3.1e-02  6.502e-01ns 3.1e-02  7.002e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 4.95392
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 1.16771e-11
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 7.174e-02ns 0.0  1.217e-01ns 1.2e-01  2.502e-01ns 1.2e-01  3.002e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 4.1457
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 3.87419e-11
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 9.041e-02ns 0.0  1.404e-01ns 4.2e-02  6.865e-01ns 4.2e-02  7.365e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 3.60287
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 4.60404e-11
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 1.021e-01ns 0.0  1.521e-01ns 5.8e-02  7.042e-01ns 5.8e-02  7.542e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 2.57064
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 2.65671e-11
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 5.687e-01ns 0.0  6.187e-01ns 5.4e-02  8.547e-01ns 5.4e-02  9.047e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 5.78018
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 3.42135e-14
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 2.607e-01ns 0.0  3.107e-01ns 1.5e-01  5.455e-01ns 1.5e-01  5.955e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 2.142
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 1.42323e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 7.304e-01ns 0.0  7.804e-01ns 3.9e-01  8.460e-01ns 3.9e-01  8.960e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 1.98625
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 5.39814e-11
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 7.418e-01ns 0.0  7.918e-01ns 1.9e-01  8.782e-01ns 1.9e-01  9.282e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 3.47156
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 1.14495e-11
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 4.385e-01ns 0.0  4.885e-01ns 2.1e-02  7.484e-01ns 2.1e-02  7.984e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 13.8917
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 8.19073e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 3.250e-01ns 0.0  3.750e-01ns 1.7e-01  4.224e-01ns 1.7e-01  4.724e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 5.52059
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 2.63538e-11
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 1.543e-02ns 0.0  6.543e-02ns 3.4e-02  5.922e-01ns 3.4e-02  6.422e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 4.56774
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 3.26993e-11
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 3.239e-02ns 0.0  8.239e-02ns 4.1e-03  1.840e-01ns 4.1e-03  2.340e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 145.522
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 8.49561e-13
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 8.231e-01ns 0.0  8.731e-01ns 2.1e-01  9.493e-01ns 2.1e-01  9.993e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 3.39406
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 4.5877e-11
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 6.496e-02ns 0.0  1.150e-01ns 4.2e-02  2.377e-01ns 4.2e-02  2.877e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 12.3926
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 1.31657e-11
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 8.648e-01ns 0.0  9.148e-01ns 3.1e-01  9.212e-01ns 3.1e-01  9.712e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 5.23034
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 7.36688e-12
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 4.343e-01ns 0.0  4.843e-01ns 5.6e-01  5.121e-01ns 5.6e-01  5.621e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 2.07476
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 6.88739e-11
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 8.970e-01ns 0.0  9.470e-01ns 2.6e-02  9.970e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 68.9066
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.07164e-12
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 1.396e-01ns 0.0  1.896e-01ns 2.1e-02  3.673e-01ns 2.1e-02  4.173e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 18.9593
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 4.04971e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 1.628e-01ns 0.0  2.128e-01ns 1.3e-01  3.980e-01ns 1.3e-01  4.480e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 2.90659
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 6.22209e-11
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 1.767e-01ns 0.0  2.267e-01ns 1.7e-01  4.224e-01ns 1.7e-01  4.724e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 2.20953
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 3.7674e-11
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 5.909e-01ns 0.0  6.409e-01ns 1.4e-01  8.662e-01ns 1.4e-01  9.162e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 2.35287
cs_0_0_0_0 ns_1_0_0_0_ci 0 7.5101e-11
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 2.849e-02ns 0.0  7.849e-02ns 3.0e-01  1.667e-01ns 3.0e-01  2.167e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 2.15863
cs_0_0_0_1 ns_1_0_2000_0_ci 0 2.37234e-11
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 4.571e-02ns 0.0  9.571e-02ns 1.4e-01  2.027e-01ns 1.4e-01  2.527e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 3.96485
cs_0_0_0_2 ns_1_0_4000_0_ci 0 1.41286e-11
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 5.626e-02ns 0.0  1.063e-01ns 2.0e-02  2.289e-01ns 2.0e-02  2.789e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 26.3944
cs_0_0_0_3 ns_1_0_6000_0_ci 0 6.00375e-12
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 7.691e-02ns 0.0  1.269e-01ns 3.8e-02  2.576e-01ns 3.8e-02  3.076e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 12.9573
cs_0_0_0_4 ns_1_0_8000_0_ci 0 4.77926e-12
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 5.425e-01ns 0.0  5.925e-01ns 9.0e-02  6.554e-01ns 9.0e-02  7.054e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 8.8359
cs_0_0_0_5 ns_1_0_0_2000_ci 0 7.36508e-12
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 1.077e-01ns 0.0  1.577e-01ns 3.3e-02  7.055e-01ns 3.3e-02  7.555e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 4.51447
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 1.51438e-11
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 1.203e-01ns 0.0  1.703e-01ns 1.6e-03  7.258e-01ns 1.6e-03  7.758e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 92.9011
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 7.74547e-13
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 5.881e-01ns 0.0  6.381e-01ns 2.2e-01  7.096e-01ns 2.2e-01  7.596e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 3.3539
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 2.25575e-11
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 1.514e-01ns 0.0  2.014e-01ns 1.3e-01  3.845e-01ns 1.3e-01  4.345e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 2.98223
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 5.99126e-11
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 6.180e-01ns 0.0  6.680e-01ns 3.6e-02  9.242e-01ns 3.6e-02  9.742e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 8.11946
cs_0_0_0_10 ns_1_0_0_4000_ci 0 2.2436e-11
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 7.614e-01ns 0.0  8.114e-01ns 1.9e-01  8.696e-01ns 1.9e-01  9.196e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 4.31913
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 2.66005e-11
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 7.769e-01ns 0.0  8.269e-01ns 1.0e-02  9.421e-01ns 1.0e-02  9.921e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 53.0683
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 1.32086e-13
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 7.416e-01ns 0.0  7.916e-01ns 2.6e-02  9.339e-01ns 2.6e-02  9.839e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 18.1414
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 5.01554e-13
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 7.571e-01ns 0.0  8.071e-01ns 1.7e-01  9.382e-01ns 1.7e-01  9.882e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 2.93051
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 4.84704e-11
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 1.573e-03ns 0.0  5.157e-02ns 2.9e-01  1.174e-01ns 2.9e-01  1.674e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 2.63591
cs_0_0_0_15 ns_1_0_0_6000_ci 0 5.50936e-11
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 1.672e-02ns 0.0  6.672e-02ns 7.7e-02  5.897e-01ns 7.7e-02  6.397e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 2.03846
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 2.38087e-11
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 4.779e-01ns 0.0  5.279e-01ns 8.1e-02  7.853e-01ns 8.1e-02  8.353e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 3.59402
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 1.44443e-11
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 4.973e-01ns 0.0  5.473e-01ns 3.7e-02  6.532e-01ns 3.7e-02  7.032e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 15.4348
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 5.4658e-12
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 6.436e-01ns 0.0  6.936e-01ns 7.5e-02  7.667e-01ns 7.5e-02  8.167e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 9.76125
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 1.91385e-11
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 2.042e-01ns 0.0  2.542e-01ns 1.4e-01  4.624e-01ns 1.4e-01  5.124e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 2.57102
cs_0_0_0_20 ns_1_0_0_8000_ci 0 7.4296e-11
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 3.477e-01ns 0.0  3.977e-01ns 7.7e-02  9.267e-01ns 7.7e-02  9.767e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 2.01084
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 1.12035e-11
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 3.671e-01ns 0.0  4.171e-01ns 4.5e-02  9.371e-01ns 4.5e-02  9.871e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 3.51857
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 1.52502e-11
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 5.083e-01ns 0.0  5.583e-01ns 2.2e-02  8.074e-01ns 2.2e-02  8.574e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 13.4075
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 1.17373e-11
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 7.115e-02ns 0.0  1.212e-01ns 5.5e-02  6.642e-01ns 5.5e-02  7.142e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 2.76939
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 3.19186e-11

*-- intentional decap
cd_decap_0_0_0_0 nd_1_0_1000_1000 0 3.83993e-10
cd_decap_0_0_0_1 nd_1_0_3000_1000 0 4.53637e-10
cd_decap_0_0_0_2 nd_1_0_5000_1000 0 5.2533e-10
cd_decap_0_0_0_3 nd_1_0_7000_1000 0 2.47812e-10
cd_decap_0_0_0_4 nd_1_0_9000_1000 0 3.20788e-10
cd_decap_0_0_0_5 nd_1_0_1000_3000 0 3.92416e-10
cd_decap_0_0_0_6 nd_1_0_3000_3000 0 4.68919e-10
cd_decap_0_0_0_7 nd_1_0_5000_3000 0 5.3957e-10
cd_decap_0_0_0_8 nd_1_0_7000_3000 0 7.56233e-10
cd_decap_0_0_0_9 nd_1_0_9000_3000 0 3.36322e-10
cd_decap_0_0_0_10 nd_1_0_1000_5000 0 9.07561e-10
cd_decap_0_0_0_11 nd_1_0_3000_5000 0 9.7873e-10
cd_decap_0_0_0_12 nd_1_0_5000_5000 0 5.59979e-10
cd_decap_0_0_0_13 nd_1_0_7000_5000 0 1.3994e-10
cd_decap_0_0_0_14 nd_1_0_9000_5000 0 3.52136e-10
cd_decap_0_0_0_15 nd_1_0_1000_7000 0 4.25594e-10
cd_decap_0_0_0_16 nd_1_0_3000_7000 0 1.33588e-11
cd_decap_0_0_0_17 nd_1_0_5000_7000 0 5.72766e-10
cd_decap_0_0_0_18 nd_1_0_7000_7000 0 1.56868e-10
cd_decap_0_0_0_19 nd_1_0_9000_7000 0 3.71678e-10
cd_decap_0_0_0_20 nd_1_0_1000_9000 0 9.36975e-10
cd_decap_0_0_0_21 nd_1_0_3000_9000 0 2.82121e-11
cd_decap_0_0_0_22 nd_1_0_5000_9000 0 1.02535e-10
cd_decap_0_0_0_23 nd_1_0_7000_9000 0 6.68824e-10
cd_decap_0_0_0_24 nd_1_0_9000_9000 0 8.79824e-10
cs_decap_0_0_0_0 ns_1_0_0_0 0 8.26226e-10
cs_decap_0_0_0_1 ns_1_0_2000_0 0 9.00571e-10
cs_decap_0_0_0_2 ns_1_0_4000_0 0 4.90309e-10
cs_decap_0_0_0_3 ns_1_0_6000_0 0 7.36521e-11
cs_decap_0_0_0_4 ns_1_0_8000_0 0 1.50032e-10
cs_decap_0_0_0_5 ns_1_0_0_2000 0 2.20012e-10
cs_decap_0_0_0_6 ns_1_0_2000_2000 0 4.30615e-10
cs_decap_0_0_0_7 ns_1_0_4000_2000 0 2.09255e-11
cs_decap_0_0_0_8 ns_1_0_6000_2000 0 5.79624e-10
cs_decap_0_0_0_9 ns_1_0_8000_2000 0 6.51862e-10
cs_decap_0_0_0_10 ns_1_0_0_4000 0 2.39425e-10
cs_decap_0_0_0_11 ns_1_0_2000_4000 0 4.5009e-10
cs_decap_0_0_0_12 ns_1_0_4000_4000 0 3.66321e-11
cs_decap_0_0_0_13 ns_1_0_6000_4000 0 1.07158e-10
cs_decap_0_0_0_14 ns_1_0_8000_4000 0 6.63366e-10
cs_decap_0_0_0_15 ns_1_0_0_6000 0 7.37506e-10
cs_decap_0_0_0_16 ns_1_0_2000_6000 0 9.53662e-10
cs_decap_0_0_0_17 ns_1_0_4000_6000 0 5.40899e-10
cs_decap_0_0_0_18 ns_1_0_6000_6000 0 1.25949e-10
cs_decap_0_0_0_19 ns_1_0_8000_6000 0 1.99155e-10
cs_decap_0_0_0_20 ns_1_0_0_8000 0 7.5612e-10
cs_decap_0_0_0_21 ns_1_0_2000_8000 0 9.6676e-10
cs_decap_0_0_0_22 ns_1_0_4000_8000 0 5.52498e-10
cs_decap_0_0_0_23 ns_1_0_6000_8000 0 1.44993e-10
cs_decap_0_0_0_24 ns_1_0_8000_8000 0 7.01959e-10

*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_3000_5000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_8000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_5000_3000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_5000_7000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_8000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_7000_5000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_8000_8000  0.001

.ends chiplet6
